US07645760B2
b) 4-(2-Bromo-5-chloro-benzyl)-morpholine
A mixture of 0.50 g (1.76 mmol) 1-Bromo-2-bromomethyl-4-chloro-benzene, 0.17 g (1.94 mmol) morpholine and 0.29 ml (210 mmol) triethylamine in 20 ml DMF was stirred overnight at room temperature. 200 ml of ethylacetate was added and the solution was extracted with sodium bicarbonate, water and brine. 0.47 g (1.62 mmol, 92%) of the title compound were obtained as a viscous oil.

reactant | 1-Bromo-2-bromomethyl-4-chloro-benzene | 1.76 mmol, 0.50 g | BrC1=C(C=C(C=C1)Cl)CBr | C7H5Br2Cl
reactant | morpholine | 1.94 mmol, 0.17 g | N1CCOCC1 | C4H9NO
reactant | triethylamine | 210 mmol, 0.29 ml | C(C)N(CC)CC | C6H15N
reactant | ethylacetate | 200 ml | C(C)OC(C)=O | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-(2-Bromo-5-chloro-benzyl)-morpholine | 1.62 mmol, 0.47 g, 92% | BrC1=C(CN2CCOCC2)C=C(C=C1)Cl | C11H13BrClNO
